US08313669B2
146 g (0.392 mol) of 3,3′-dibenzyloxybiphenyl are dissolved in 1.5 I of THF and hydrogenated to completion on a Pd/C catalyst. The catalyst is filtered off, the filtrate is evaporated, and the residue is filtered through silica gel with toluene/ethyl acetate, giving biphenyl-3,3′-diol as a colourless solid.

reactant | 3,3′-dibenzyloxybiphenyl | 0.392 mol, 146 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=CC(=CC=C1)OCC1=CC=CC=C1 | C26H22O2
solvent | THF | C1CCOC1 | C4H8O
catalyst | Pd/C | [Pd] | Pd
product | biphenyl-3,3′-diol | C1(=CC(=CC=C1)O)C1=CC(=CC=C1)O | C12H10O2
